### PR TITLE
feat(Algebra/Group): mulOpposite equivs for submonoid and subgroup

### PR DESCRIPTION
**Pull request by EzequielS2**
Add MulOpposite monoid equivalences for submonoids and subgroups, and remove the corresponding TODOs in `Subsemiring/MulOpposite.lean`.

### CODE REVIEW

File: Mathlib/Algebra/Group/Subgroup/MulOpposite.lean [hunk 1]
```diff
@@ -125,3 +126,27 @@ theorem unop_normalizer (H : Subgroup Gᵐᵒᵖ) :
...
+
+section AddSubgroup
+
+variable [AddCommGroup G]
+
+namespace AddSubgroup
+
+/-- Bijection between an additive subgroup `S` and its opposite as an additive equivalence. -/
+@[simps!]
+def addMonoidEquivOp (S : AddSubgroup G) : S ≃+ S.op where
```
Comment (wwylele) [inline Mathlib/Algebra/Group/Subgroup/MulOpposite.lean]: Could you define the multiplicative version and then use `@[to_additive]` to get the additive version? (there is an example right above)

**Review by wwylele — COMMENTED** [review]
Could you shorten the PR description and follow the provided the template? (and if you used AI for it, please wrote it yourself as per the guideline)

**Comment by wwylele** [comment]
What's the reason putting submonoid/subgroup change and sublist change together? I don't immediately see the dependency between them... if they are unrelated, could you create separate PRs?

File: Mathlib/Algebra/Group/Subgroup/MulOpposite.lean (hunk 1 above)
Comment (EzequielS2) [reply Mathlib/Algebra/Group/Subgroup/MulOpposite.lean]: ok

**Comment by EzequielS2** [comment]
The sublist part is now in #41466 @wwylele

File: Mathlib/Algebra/Group/Subgroup/MulOpposite.lean [hunk 2]
```diff
@@ -125,3 +130,34 @@ theorem unop_normalizer (H : Subgroup Gᵐᵒᵖ) :
...
+@[to_additive (attr := simps!)
+  /-- Bijection between an additive subgroup and its opposite as an additive equivalence. -/]
+def mulMonoidEquivOp (S : Subgroup G) : S ≃* S.op where
+  toEquiv := S.equivOp
+  map_mul' x y := by ext; simp [equivOp, MulOpposite.op_mul, mul_comm]
+
+/-- Bijection between a subgroup `S` and `MulOpposite` of its opposite. -/
+@[to_additive (attr := simps!)
+  /-- Bijection between an additive subgroup and `AddOpposite` of its opposite. -/]
+def mulMonoidEquivOpMop (S : Subgroup G) : S ≃* (S.op)ᵐᵒᵖ where
```
Comment (wwylele) [inline Mathlib/Algebra/Group/Subgroup/MulOpposite.lean]: Does this bijection and the next one need commutativity? I imagined that the two `op` cancels so the multiplication order is preserved, and thus no commutativity is needed. 

Same question for the monoid version `mulMonoidEquivOpMop`

Comment (EzequielS2) [reply Mathlib/Algebra/Group/Subgroup/MulOpposite.lean]: @wwylele 

For mulMonoidEquivOp, commutativity is still needed because op is an anti homomorphism. 

For mulMonoidEquivOpMop and mopMulMonoidEquivOp, the second op restores order, so I dropped [CommGroup] and followed Subsemiring.ringEquivOpMop. I made the same update in Mathlib/Algebra/Group/Submonoid/MulOpposite.lean for the submonoid versions.

File: Mathlib/Algebra/Group/Subgroup/MulOpposite.lean [hunk 3]
```diff
@@ -124,4 +129,37 @@ theorem unop_normalizer (H : Subgroup Gᵐᵒᵖ) :
     (normalizer H).unop = normalizer (H.unop : Set G) := by
   rw [← op_inj, op_unop, op_normalizer, op_unop]
 
+/-- Bijection between a subgroup `S` and `MulOpposite` of its opposite. -/
+@[to_additive (attr := simps!)
+  /-- Bijection between an additive subgroup and `AddOpposite` of its opposite. -/]
+def mulMonoidEquivOpMop (S : Subgroup G) : S ≃* (S.op)ᵐᵒᵖ where
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/Subgroup/MulOpposite.lean]: why not just `mulEquiv..` (same thing with the rest)?
```suggestion
def mulEquivOpMop (S : Subgroup G) : S ≃* (S.op)ᵐᵒᵖ where
```

**Comment by themathqueen** [comment]
Can you please "resolve conversation" on the comments once you have addressed them?

File: Mathlib/Algebra/Group/Subgroup/MulOpposite.lean [hunk 4]
```diff
@@ -18,7 +19,11 @@ subgroup, subgroups
...
 @[expose] public section
 
-variable {G : Type*} [Group G]
+variable {G : Type*}
+
+section Group
+
+variable [Group G]
 
 namespace Subgroup
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/Subgroup/MulOpposite.lean:28]: can you rearrange this so that it's

```lean
namespace Subgroup

section Group
end Group

section CommGroup
end CommGroup

end Subgroup
```

File: Mathlib/Algebra/Group/Submonoid/MulOpposite.lean [hunk 5]
```diff
@@ -184,4 +189,37 @@ theorem unop_closure (s : Set Mᵐᵒᵖ) : (closure s).unop = closure (MulOppos
...
+
 end Submonoid
+
+end MulOneClass
+
+section CommMonoid
+
+variable [CommMonoid M]
+
+namespace Submonoid
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/Submonoid/MulOpposite.lean:214]: can you similarly reorganise the sections and namespaces here too please?
